US07417064B2
Add potassium carbonate (63.50 g, 459 mmol) to a stirred solution of N-benzylmethylamine (14.8 mL, 115 mmol), 3-bromo-N-methoxy-N-methyl-propionamide (22.47 g, 115 mmol, prepared according to Jacobi, P. A.; Blum, C. A.; DeSimone, R. W.; Udodong, U. E. S. J. Am. Chem. Soc. 1991, 113, 5384-5392), and anhydrous acetonitrile (460 mL). Heat the reaction to reflux under nitrogen for 3 hours. Cool the reaction to room temperature and filter the reaction through Celite®. Wash the Celite® with ethyl acetate and concentrate on a rotary evaporator to give the crude product. Purify the crude product by flash chromatography on silica gel eluting with 0.5% concentrated ammonium hydroxide/5% ethanol/chloroform to yield 22.31 g (82%) of 3-(benzyl-methyl-amino)-N-methoxy-N-methyl-propionamide: mass spectrum (ion spray) m/z=237.1(M+1); 1H NMR (CDCl3) δ 7.31-7.21 (m, 5H), 3.65 (s, 3H), 3.53 (s, 2H), 3.17 (s, 3H), 2.80-2.76 (m, 2H), 2.67-2.63 (m, 2H), 2.23 (s, 3H).

reactant | potassium carbonate | 459 mmol, 63.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-benzylmethylamine | 115 mmol, 14.8 mL | C(C1=CC=CC=C1)CN | C8H11N
reactant | 3-bromo-N-methoxy-N-methyl-propionamide | BrCCC(=O)N(C)OC | C5H10BrNO2
reactant | acetonitrile | 460 mL | C(C)#N | C2H3N
product | 3-(benzyl-methyl-amino)-N-methoxy-N-methyl-propionamide | 22.31 g, 82% | C(C1=CC=CC=C1)N(CCC(=O)N(C)OC)C | C13H20N2O2
